US08609688B2
[(2R)-4-(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)morpholin-2-yl]methanol trihydrochloride
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2R)-2-(hydroxymethyl)morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (5.20 mg, 0.00803 mmol) was dissolved in DCM (1 mL). 4M HCl/dioxane (1 mL) was added to the mixute and stirred at room temperature for 15 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (4.36 mg, 82.7%) as yellow solid.

reactant | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2R)-2-(hydroxymethyl)morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.00803 mmol, 5.20 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2C[C@@H](OCC2)CO)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C37H41N7O4
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | [(2R)-4-(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)morpholin-2-yl]methanol trihydrochloride | 4.36 mg, 82.7% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C=2C=C(C=CC2)N2C[C@@H](OCC2)CO)C=2C(=NC=CC2)N | InChI=1S/C32H33N7O2.3ClH/c33-29-26(6-2-15-35-29)30-37-28-12-11-27(21-4-1-5-24(18-21)38-16-17-41-25(19-38)20-40)36-31(28)39(30)23-9-7-22(8-10-23)32(34)13-3-14-32;;;/h1-2,4-12,15,18,25,40H,3,13-14,16-17,19-20,34H2,(H2,33,35);3*1H/t25-;;;/m1.../s1
